US08026260B2
To a solution of methyl 4-{1,1-difluoro-2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoate (74 mg, 0.2 mmol) in THF (3 mL) was added sodium hydroxide (0.58 mmol, 0.58 mL of a 1M solution) and the solution was stirred at ambient temperature for 16 hours. The reaction was partitioned between 1M HCl and ethyl acetate. The organics were dried over sodium sulfate, filtered and evaporated to give 4-{1,1-difluoro-2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoic acid as a white solid. ESIMS calcd 365.0 (M++H), found 365.0 (M++H).

reactant | methyl 4-{1,1-difluoro-2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoate | 0.2 mmol, 74 mg | FC(C(=O)NNC(C1=C(C=CC=C1)OC)=O)(F)C1=CC=C(C(=O)OC)C=C1 | C18H16F2N2O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-{1,1-difluoro-2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoic acid | FC(C(=O)NNC(C1=C(C=CC=C1)OC)=O)(F)C1=CC=C(C(=O)O)C=C1 | C17H14F2N2O5
